US04173463
(Ethoxymethyl)triphenylphosphonium chloride (7)
A solution of 99.66 g of triphenylphosphine and 37.82 g of chloromethyl ethyl ether in 240 ml of dry benzene was stirred and refluxed (84° C.) for 6 hours. The mixture then was chilled and filtered to give 7, as a white solid, mp 205°-206° C.

reactant | triphenylphosphine | 99.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | chloromethyl ethyl ether | 37.82 g | C(C)OCCl | C3H7ClO
solvent | benzene | 240 ml | C1=CC=CC=C1 | C6H6
product | (Ethoxymethyl)triphenylphosphonium chloride | [Cl-].C(C)OC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H22OP.ClH/c1-2-22-18-23(19-12-6-3-7-13-19,20-14-8-4-9-15-20)21-16-10-5-11-17-21;/h3-17H,2,18H2,1H3;1H/q+1;/p-1
